US07678794B2
Synthesis of 6-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridine-2-carboxylic acid
Dissolve 6-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridine-2-carboxylic acid methyl ester (3.77 g, 10.9 mmol) in MeOH (20 mL) and water (5 mL). Add 2N aqueous lithium hydroxide (10.9 mmol). After 12 hours, concentrate under reduced pressure and dissolve the residue in 4N hydrochloric acid in dioxane. Add water until white precipitate forms and collect by filtration to yield the title compound as a white solid (2.30 g, 6.99 mmol): 1H NMR (d6-DMSO) δ 0.89 (t, 3H), 1.50 (m, 2H), 2.56 (s, 3 H), 2.63 (t, 3H), 5.31 (s, 2H), 6.57 (d, 1H), 7.47 (m, 1H), 7.67 (d, 1H), 7.93 (m, 2H), 12.84 (s, 1H), (acid proton not observed); mass spectrum (m/e): 328 (M−1).

reactant | 6-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridine-2-carboxylic acid methyl ester | 10.9 mmol, 3.77 g | COC(=O)C1=NC(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C19H21NO5
reactant | lithium hydroxide | 10.9 mmol, 2N | [OH-].[Li+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 6-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridine-2-carboxylic acid | 6.99 mmol, 2.30 g | C(C)(=O)C1=C(C(=C(OCC2=CC=CC(=N2)C(=O)O)C=C1)CCC)O | C18H19NO5
